* Z:\mnt\design.r\spice\examples\UHFpreamp.asc
L2 0 N007 30n
L1 0 N006 45n
V1 N005 0 ac 2 sine(0 25m 180Meg)
T1 N001 0 N002 0
T2 N003 0 N004 0
R6 N003 N002 36
R7 N002 N009 331
R8 N003 N009 331
C8 N009 0 100p
Receiver OUT 0 75 noiseless
L3 N010 N004 .124µ
V2 N015 0 10
V3 N006 N005 sine(0 25m 174Meg)
XQ1 N001 N008 0 MRF901
C1 N007 N006 12p
C2 N008 N007 22p
R1 N013 N012 499
R3 N014 N013 3.01K
R2 N008 N013 8.25K
R4 N001 N014 10K
C3 N013 0 .001µ
C4 N014 0 .01µ
C5 OUT N004 22p
R5 N015 N010 75
C6 0 N015 .1µ
C7 N015 0 15µ
D1 N012 N011 1N4148
D2 N011 0 1N4148
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.ac oct 1000 140Meg 700Meg
;.noise V(out) V1 oct 1000 170Meg 700Meg
* To plot noise figure[dB]:  10*log10(V(inoise)*V(inoise)/(4*k*300.15*75))
;.tran 0 11u 1u .02n
;.optoins
;.dc temp -55 125 1
* Noise Model of 85 feet of RG6QS
* Model Copyright © 1991 Analog and RF Models
* Courtesy of wksands@earthlink.net
* http://home.earthlink.net/~wksands
.subckt MRF901 1 2 3
Lc 1 4 0.451n
Lb 2 6 1.759n
Le 5 3 0.899n
Cc 4 5 0.466p
Cb 4 6 0.160p
Q1 4 6 5 QR99
.model QR99 NPN(BF=88 VAF=120 VAR=12 Rc=5.63 Rb=1.9 Re=.474 IKF=.021 Ise=2.7f TF=20.7p TR=1.49n
+ ITF=.02 VTF=4.95 Cjc=.926p Cje=1.3p XTI=3 Ne=1.5 Isc=.9f Eg=1.11 PTF=23 XTB=1.5 BR=2.29 Vjc=.75
+ Vje=.75 Is=.3f Mjc=.33 Mje=.33 XTF=4 IKR=.021 KF=1f Nc=1.7 Fc=.5 Rbm=1.35 Irb=3m XCjc=.398)
.ends MRF901
* Masthead VHF-high/UHF Preamp
* Preamp Power Insertion
* Adjust R1\nfor 5mA\ncollector\ncurrent
* Antenna
* Notes: \n   1.  All capacitors are surface mount.\n   2.  All inductors are air wound coils.\n   3.  Dashed lines in Preamp indicate shielding.
* Television Set
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
